*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1390-103_freq port1 port2 PARAMS: Cpar=4.6pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=65
+ R2=0.0137
+ C= {Cpar}
+ K1=0.000701
+ K2=2.15
+ K3= {Ind}
+ K4=0.243
+ K5=0.0000055
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7767.57507
.ends SER1390-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1390-103_imp port1 port2 PARAMS: Cpar=4.057pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=65
+ R2=0.0137
+ C= {Cpar}
+ K1=0.000701
+ K2=2.15
+ K3= {Ind}
+ K4=0.243
+ K5=0.0000055
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7767.57507
.ends SER1390-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1390-153_freq port1 port2 PARAMS: Cpar=4pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=120
+ R2=0.0137
+ C= {Cpar}
+ K1=0.000441
+ K2=2.4
+ K3= {Ind}
+ K4=0.15
+ K5=0.0000055
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8009.28983
.ends SER1390-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1390-153_imp port1 port2 PARAMS: Cpar=3.811pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=120
+ R2=0.0137
+ C= {Cpar}
+ K1=0.000441
+ K2=2.4
+ K3= {Ind}
+ K4=0.15
+ K5=0.0000055
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8009.28983
.ends SER1390-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1390-223_freq port1 port2 PARAMS: Cpar=4.7pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.021
+ C= {Cpar}
+ K1=0.00066
+ K2=3.9
+ K3= {Ind}
+ K4=0.15
+ K5=0.00901
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12098.9948
.ends SER1390-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1390-223_imp port1 port2 PARAMS: Cpar=4.32pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.021
+ C= {Cpar}
+ K1=0.00066
+ K2=3.9
+ K3= {Ind}
+ K4=0.15
+ K5=0.00901
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12098.9948
.ends SER1390-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1390-333_freq port1 port2 PARAMS: Cpar=6.25pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=110
+ R2=0.021
+ C= {Cpar}
+ K1=0.000444
+ K2=4.8
+ K3= {Ind}
+ K4=0.15
+ K5=0.003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11912.0858
.ends SER1390-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1390-333_imp port1 port2 PARAMS: Cpar=5.954pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=110
+ R2=0.021
+ C= {Cpar}
+ K1=0.000444
+ K2=4.8
+ K3= {Ind}
+ K4=0.15
+ K5=0.003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11912.0858
.ends SER1390-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1390-473_freq port1 port2 PARAMS: Cpar=4.3pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=0.021
+ C= {Cpar}
+ K1=0.000001
+ K2=5.2
+ K3= {Ind}
+ K4=0.15
+ K5=0.003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13182.8259
.ends SER1390-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1390-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1390-473_imp port1 port2 PARAMS: Cpar=4.157pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=0.021
+ C= {Cpar}
+ K1=0.000001
+ K2=5.2
+ K3= {Ind}
+ K4=0.15
+ K5=0.003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13182.8259
.ends SER1390-473_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
